US04264497
3.6 g of cis-2,3-dihydro-3-[(4-methylpiperazinyl)methyl]-2-phenyl-1,5-benzothiazepin-4(5H)-one was dissolved in 10 ml of ethanol, and 2.5 ml of concentrated hydrochloric acid was added to the solution while stirring. The precipitated crystals were filtered and recrystallized from aqueous methanol to obtain cis-2,3-dihydro-3-[(4-methylpiperazinyl)methyl]-2-phenyl-1,5-benzothiazepin-4(5H)-one dihydrochloride monohydrate as colorless needles having a melting point of 212° C. (with decomposition).

reactant | cis-2,3-dihydro-3-[(4-methylpiperazinyl)methyl]-2-phenyl-1,5-benzothiazepin-4(5H)-one | 3.6 g | CN1CCN(CC1)C[C@@H]1[C@@H](SC2=C(NC1=O)C=CC=C2)C2=CC=CC=C2 | C21H25N3OS
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | cis-2,3-dihydro-3-[(4-methylpiperazinyl)methyl]-2-phenyl-1,5-benzothiazepin-4(5H)-one dihydrochloride monohydrate | O.Cl.Cl.CN1CCN(CC1)C[C@@H]1[C@@H](SC2=C(NC1=O)C=CC=C2)C2=CC=CC=C2 | InChI=1S/C21H25N3OS.2ClH.H2O/c1-23-11-13-24(14-12-23)15-17-20(16-7-3-2-4-8-16)26-19-10-6-5-9-18(19)22-21(17)25;;;/h2-10,17,20H,11-15H2,1H3,(H,22,25);2*1H;1H2/t17-,20+;;;/m1.../s1
